US06794395B1
(3) 4-[N-propionyl-N-(3-dimethylaminopropyl)-amino]-nitrobenzene
Prepared from 4-(3-dimethylamino-propylamino)-nitrobenzene and propionylchloride

reactant | 4-(3-dimethylamino-propylamino)-nitrobenzene | CN(CCCNC1=CC=C(C=C1)[N+](=O)[O-])C | C11H17N3O2
reactant | propionylchloride | C(CC)(=O)Cl | C3H5ClO
product | 4-[N-propionyl-N-(3-dimethylaminopropyl)-amino]-nitrobenzene | C(CC)(=O)N(CCCN(C)C)C1=CC=C(C=C1)[N+](=O)[O-] | C14H21N3O3
